### PR TITLE
[Merged by Bors] - feat: inverse Veblen function

### PR DESCRIPTION
**Pull request by vihdzp**
Every additive principal ordinal $\alpha$ can be uniquely written in the form $\alpha = \varphi_{\beta}(\gamma)$ with $\gamma<\alpha$. We define `invVeblen₁ x` and `invVeblen₂ x`, which return $\beta$ and $\gamma$ in the expression for `ω ^ x`. We then show some properties of these functions in relation to the epsilon and gamma functions.

---

These functions unfortunately seem to be unnamed in the literature.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 1]
```diff
@@ -182,6 +197,25 @@ theorem IsNormal.veblenWith_zero (hp : 0 < f 0) : IsNormal (veblenWith f · 0) :
     rw [lt_succ_iff]
     exact le_max_left _ b
 
+theorem veblenWith_veblenWith_eq_veblenWith_iff (h : o₂ ≤ o₁) :
+    veblenWith f o₁ (veblenWith f o₂ a) = veblenWith f o₂ a ↔ veblenWith f o₁ a = a := by
+  constructor
+  all_goals
+    intro h'
+    have := veblenWith_eq_self_of_le hf h h'
+    simp_all
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: Untested, but it looks to me like something like `grind [veblenWith_eq_self_of_le]` might work here?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 2]
```diff
@@ -343,6 +406,120 @@ theorem veblen_eq_veblen_iff :
...
+    · rw [← veblen_zero_apply, veblen_veblen_of_lt ho]
+      simp
+
+theorem invVeblen₁_of_lt_opow (h : a < ω ^ a) : invVeblen₁ a = 0 := by
+  rwa [← Ordinal.le_zero, ← lt_veblen_iff_invVeblen₁_le, veblen_zero]
+
+@[simp]
+theorem invVeblen₁_zero : invVeblen₁ 0 = 0 := by
+  apply invVeblen₁_of_lt_opow
+  simp
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]:
```suggestion
theorem invVeblen₁_zero : invVeblen₁ 0 = 0 :=
  invVeblen₁_of_lt_opow (by simp)
```
or similar

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 3]
```diff
@@ -343,6 +406,120 @@ theorem veblen_eq_veblen_iff :
 
 end veblen
 
+/-! ### Inverse Veblen function -/
+
+/-- For any given `x`, there exists a unique pair `(o, a)` such that `ω ^ x = veblen o a` and
+`a < ω ^ x`. `invVeblen₁ x` and `invVeblen₂ x` return the first and second entries of this pair,
+respectively.
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: Can we mention the fact that `veblen_eq_opow_iff` proves this defining property to this docstring too?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 4]
```diff
@@ -343,6 +406,120 @@ theorem veblen_eq_veblen_iff :
...
+theorem lt_veblen_invVeblen₁ (x : Ordinal) : x < veblen (invVeblen₁ x) x :=
+  (right_le_veblen ..).lt_of_ne' (csInf_mem (s := {y | veblen y x ≠ x}) ⟨x, (lt_veblen x).ne'⟩)
+
+theorem lt_veblen_iff_invVeblen₁_le : a < veblen o a ↔ invVeblen₁ a ≤ o := by
+  obtain h | h := lt_or_ge o (invVeblen₁ a)
+  · rw [veblen_eq_of_lt_invVeblen₁ h]
+    simpa
+  · simpa [(lt_veblen_invVeblen₁ a).trans_le (veblen_left_monotone _ h)]
+
+theorem mem_range_veblen_le_invVeblen₁ : ω ^ x ∈ range (veblen o) ↔ o ≤ invVeblen₁ x := by
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]:
```suggestion
theorem mem_range_veblen_iff_le_invVeblen₁ : ω ^ x ∈ range (veblen o) ↔ o ≤ invVeblen₁ x := by
```

**Review by b-mehta — APPROVED** [review]
Looks in generally good shape!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Tried replacing `simp_all` by `grind`. It solves the second goal, but not the first. I think the issue is that `grind` doesn't know `veblen o` is injective. I don't have experience using `grind` so I'm not sure what tags I need to add for this to work.

Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: `grind [veblenWith_inj, → veblenWith_eq_self_of_le]` makes it work!

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 5]
```diff
@@ -343,6 +402,119 @@ theorem veblen_eq_veblen_iff :
 
 end veblen
 
+/-! ### Inverse Veblen function -/
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:409]: Can you add a reference for this notion?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 6]
```diff
@@ -465,4 +646,28 @@ theorem natCast_lt_gamma (n : ℕ) : n < Γ_ o :=
...
+
+@[simp]
+theorem invVeblen₁_gamma (o : Ordinal) : invVeblen₁ (Γ_ o) = Γ_ o := by
+  rw [← veblen_gamma_zero, invVeblen₁_veblen veblen_pos, veblen_gamma_zero]
+
+@[simp]
+theorem invVeblen₂_gamma (o : Ordinal) : invVeblen₂ (Γ_ o) = 0 := by
+  rw [← veblen_gamma_zero, invVeblen₂_veblen gamma_ne_zero veblen_pos]
+
+theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ := by
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:665]: Is it useful to have the special case `invVeblen₁ o = o ↔ o ∈ range Γ_`, with the assumption that o isn't zero?

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:409]: I had to dig a bit deep for this since Wikipedia (where I got this from) did not list any references for the Veblen normal form. But I found the article "Normal functions and constructive ordinal notations" by Larry W. Miller. In page 445 it briefly states:

> "...if x = ωˣ so x = **ω**(u, v) for unique u, v < x..."

where **ω** is the author's notation for the Veblen function. The article elaborates on how this can be used to build an ordinal notation below Γ₀, as I alluded to in the docstring for `invVeblen`.

I'll add that article to the .bib file and put it as a reference on the module docstring.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:665]: It's hard to say since I don't have planned uses for this theorem (it exists mostly as justification for the claim that `invVeblen₁ x` and `invVeblen₂ x` are less than `x` whenever `0 < x < Γ₀`, i.e. the Veblen Normal Form is predicative below `Γ₀`). I'd rather not add these sorts of variants until someone needs them.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:409]: Thanks!
